US07141586B2
N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (150 mg, 0.364 mmol) was suspended in dichloromethane (2 ml) under nitrogen at room temperature and triethylamine (153 μl, 1.09 mmol) was added followed by acetyl chloride (29 μl, 0.4 mmol). The reaction was stirred at room temperature for 1.5 h and the mixture was quenched with sat. sodium bicarbonate solution (3 ml). The organic phase was separated and the aqueous phase was washed with dichloromethane (2×5 ml). The combined organic extracts were dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with dichloromethane:methanol:concentrated aqueous ammonia (95:5:0.5, by volume) and the product was triturated with diethylether (2×3 ml) to give N-(cis-4-Acetylamino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide (50 mg) as a white solid.

reactant | N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 0.364 mmol, 150 mg | Cl.N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 1.09 mmol, 153 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.4 mmol, 29 μl | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(cis-4-Acetylamino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide | 50 mg | C(C)(=O)N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O | C21H24FN3O3S
